US08703953B2
To a stirred solution of tert-butyl((2S)-1-((2-(bis(4-methoxybenzyl)amino)-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (110 mg, 0.165 mmol) in dichloromethane (10 mL) was added TFA (0.254 mL, 3.29 mmol) and the reaction was stirred at room temperature overnight. The volatiles were evaporated and the crude material was purified by preparative HPLC (0.1% TFA in MeOH) to afford 8-(((S)-2-amino-4-methylpentyl)oxy)-5-methyl-5H-chromeno[3,4-c]pyridin-2-amine (25 mg, 0.069 mmol, 42% yield) as a yellow solid. 1H NMR (400 MHz, MeOD) δ 7.74 (m, 2 H), 6.84 (s, 1 H), 6.75 (dd, J=2.4 Hz, J=8.4 Hz, 1 H), 6.63 (d, J=2.4 Hz, 1 H), 5.18 (m, 1 H), 4.32 (m, 1 H), 4.15 (m, 1 H), 3.65 (m, 1 H), 1.83 (m, 1 H), 1.65 (m, 5 H), 1.04 (m, 6 H); LCMS (ESI) m/e 328.2 [(M+H)+, calcd for C19H26N3O2 328.2]; LC/MS retention time (Method D): tR=1.24 min; HPLC retention time (method A): tR=8.42 min.

reactant | tert-butyl((2S)-1-((2-(bis(4-methoxybenzyl)amino)-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.165 mmol, 110 mg | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1)OC(C1=CN=C(C=C12)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)C)CC(C)C)=O | C40H49N3O6
reactant | TFA | 3.29 mmol, 0.254 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 8-(((S)-2-amino-4-methylpentyl)oxy)-5-methyl-5H-chromeno[3,4-c]pyridin-2-amine | 0.069 mmol, 25 mg, 42% yield | N[C@H](COC=1C=CC2=C(C1)OC(C1=CN=C(C=C12)N)C)CC(C)C | C19H25N3O2
